US04742062
In a mixture of acetonitrile and tert-butanol (5: 1, v/v, 20 ml) are dissolved 2,4-dichlorocinnamic acid (4.3 g, 19.8 mmole) and triethylamine (3 ml, 21.5 mmole), and the mixture is cooled with an ice water bath. To the mixture is added dropwise a solution of ethyl chloroformate (2 ml, 21.0 mmole) in a mixture of acetonitrile and tert-butanol (5:1, v/v, 5 ml) over a period of 3 minutes. After the addition, the mixture is stirred for 5 minutes, and then to the mixture is added an aqueous solution (15 ml) of N-(4-chlorobenzyl)piperazine (4.2 g, 20 mmole) (which is prepared by the process as disclosed in Yoshiaki Ikeda et al., Yakugaku Zasshi, Vol. 89, 669-676, 1969), and the mixture is stirred at room temperature for 30 minutes. The reaction mixture is concentrated under reduced pressure until about half volume, and thereto is added water (20 ml), and then extracted with benzene (30 ml) twice. The organic layer is washed with water, dried over anhydrous magnesium sulfate, and concentrated to dryness. The resulting residue is recrystallized from methanol to give 1-(4-chlorobenzyl)-4-(2,4-dichlorocinnamoyl)piperazine (5.3 g, 65 %) as yellow crystals.

reactant | 2,4-dichlorocinnamic acid | 19.8 mmole, 4.3 g | ClC1=C(C=CC(=O)O)C=CC(=C1)Cl | C9H6Cl2O2
reactant | triethylamine | 21.5 mmole, 3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 21.0 mmole, 2 ml | ClC(=O)OCC | C3H5ClO2
reactant | N-(4-chlorobenzyl)piperazine | 20 mmole, 15 ml, 4.2 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | 1-(4-chlorobenzyl)-4-(2,4-dichlorocinnamoyl)piperazine | 5.3 g, 65 % | ClC1=CC=C(CN2CCN(CC2)C(C=CC2=C(C=C(C=C2)Cl)Cl)=O)C=C1 | C20H19Cl3N2O
